US04496584
To a solution of 5.0 g of stearic acid in 70 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and further stirred overnight at room temperature. The precipitate was collected by filtration, washed successively with a small volume of pyridine, ethyl ether, and acetone, dissolved in a dimethylformamide-methanol mixture, and filtered to remove the insolubles. The crystals formed upon addition of ethyl ether to the filtrate were collected by filtration, washed with ethanol, and recrystallized from a dimethylformamide-methanol mixture to obtain 3.3 g of a white to pale brown powder of 6-amidino-2-naphthyl stearate methanesulfonate.

reactant | stearic acid | 5.0 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl stearate methanesulfonate | CS(=O)(=O)O.C(CCCCCCCCCCCCCCCCC)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C29H44N2O2.CH4O3S/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-28(32)33-27-21-20-24-22-26(29(30)31)19-18-25(24)23-27;1-5(2,3)4/h18-23H,2-17H2,1H3,(H3,30,31);1H3,(H,2,3,4)
